US08110581B2
Step 1. 1-tert-butyl 3-ethyl 3-(2-chloroethyl)piperidine-1,3-dicarboxylate
Lithium diisopropylamide (1.8 M in THF, 3.9 mL) was slowly added to a solution of 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate (1.50 g, 0.00583 mol) in tetrahydrofuran (20 mL, 0.2 mol) at −78° C. and the mixture was stirred for about 1 hour during which the temperature was allowed to rise to about −50° C. 1-Bromo-2-chloro-ethane (0.75 mL, 0.0082 mol) was slowly added to the mixture and then the resulting mixture was allowed to warm to rt (room temperature). After stirring for 2 h, the reaction mixture was quenched with saturated NH4Cl and extracted with ethyl ether twice. The combined organic layers were dried and concentrated in-vacuo to afford the crude product, which was purified by CombiFlash eluting with hexane/EtOAc (max. EA 20%).

reactant | Lithium diisopropylamide | 1.8 M, 3.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate | 0.00583 mol, 1.50 g | N1(CC(CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | tetrahydrofuran | 0.2 mol, 20 mL | O1CCCC1 | C4H8O
reactant | 1-Bromo-2-chloro-ethane | 0.0082 mol, 0.75 mL | BrCCCl | C2H4BrCl
product | 1-tert-butyl 3-ethyl 3-(2-chloroethyl)piperidine-1,3-dicarboxylate | ClCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H26ClNO4
